US06878714B2
A mixture of 1-(4-iodo-pyrrolo[2,3-b]pyridin-1-yl)-ethanone (4.30 g), CuCN (6.841 g), Pd2dba3 (0.729 g), and dppf (1.636 g) in 85 mL of dioxane was heated to reflux for 2 h. Solid was removed by filtration through a pad of Celite®. The filtrate was concentrated to give a yellow solid as crude compound, which was purified by chromatography through silica gel (250 g, 5-30% EtOAc/hexanes, stepwise gradient) to afford 1-acetyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile as a white fluffy solid.

reactant | 1-(4-iodo-pyrrolo[2,3-b]pyridin-1-yl)-ethanone | 4.30 g | IC1=C2C(=NC=C1)N(C=C2)C(C)=O | C9H7IN2O
reactant | CuCN | 6.841 g | C(#N)[Cu]
solvent | dioxane | 85 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.729 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 1.636 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-acetyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | C(C)(=O)N1C=CC2=C1N=CC=C2C#N | C10H7N3O
